US08003662B2
Step F: Preparation of 5-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one:
A suspension of 5-(3-fluoro-4-hydroxyphenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one (0.113 g, 0.266 mmol), 7-chloro-2-iodothieno[3,2-b]pyridine (0.075 g, 0.254 mmol; prepared according to the procedure of Ragan, J. A. Org. Proc. Res. 2003, 7, 676) and DMAP (0.003 g, 0.025 mmol) in bromobenzene (3 mL) was stirred under nitrogen. The reaction mixture was allowed to stir for 7 days at 150° C. and then for 2 days at room temperature. The reaction was concentrated in vacuo to remove as much bromobenzene as possible. The resulting gummy brown residue was dissolved in CH2Cl2 and then EtOAc was added to yield a dark brown solid precipitate that was filtered and washed with EtOAc. The filtrate, which contained the desired product, was concentrated and purified by flash column chromatography, eluting with 10:1 CH2Cl2/MeOH. Product containing fractions were pooled and concentrated to yield (0.020 mg) of the desired product. Impure fractions were pooled, concentrated and repurified by flash column chromatography, eluting with 20:1 CH2Cl2/MeOH. The product isolated from the two purifications were combined to yield the desired product (39 mg; 27%) as a yellow solid. LRMS (APCI pos) m/e 571 (M+1).

reactant | 5-(3-fluoro-4-hydroxyphenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.266 mmol, 0.113 g | FC=1C=C(C=CC1O)C=1C(N(C(=NC1)NC1=CC=CC=C1)C)=O | C17H14FN3O2
reactant | 7-chloro-2-iodothieno[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=C(S2)I | C7H3ClINS
catalyst | DMAP | 0.025 mmol, 0.003 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | bromobenzene | 3 mL | BrC1=CC=CC=C1 | C6H5Br
product | 5-(3-fluoro-4-(2-iodothieno[3,2-b]pyridin-7-yloxy)phenyl)-3-methyl-2-(phenylamino)pyrimidin-4(3H)-one | 0.020 mg | FC=1C=C(C=CC1OC1=C2C(=NC=C1)C=C(S2)I)C=2C(N(C(=NC2)NC2=CC=CC=C2)C)=O | C24H16FIN4O2S
